US06339099B1
Preparation of 3-(3-cyano-4-fluorophenyl)-5-(methylsulfonylaminomethyl)-5-(hydroxycarbonyl)isoxazoline
To a solution of 3-(3-cyano-4-fluorophenyl)-5-(methylsulfonylaminomethyl)-5-(carbomethoxy)isoxazoline (1.13 g) in THF (50 mL) was added LiOH (3.50 mL of 1N aqueous solution). The mixture was stirred at RT under N2 for ½ h. The solvent was removed, the resulting material was diluted with water and acidified with concentrated HCl. It was then extracted with EtOAc, and the organic solution was dried over MgSO4 and concentrated to a light yellow foam (0.98 g). 1H NMR (DMSO-d6) δ8.17 (m, 2H), 7.56 (t, 1H), 3.98-3.79 (m, 2H), 3.69 (bs, 2H), 3.01 (s, 3H) ppm; ESI mass spectrum z (rel. intensity) 339.8 (M−H, 100).

reactant | 3-(3-cyano-4-fluorophenyl)-5-(methylsulfonylaminomethyl)-5-(carbomethoxy)isoxazoline | 1.13 g | C(#N)C=1C=C(C=CC1F)C1=NOC(C1)(C(=O)OC)CNS(=O)(=O)C | C14H14FN3O5S
reactant | LiOH | 1N, 3.50 mL | [Li+].[OH-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(3-cyano-4-fluorophenyl)-5-(methylsulfonylaminomethyl)-5-(hydroxycarbonyl)isoxazoline | C(#N)C=1C=C(C=CC1F)C1=NOC(C1)(C(=O)O)CNS(=O)(=O)C | C13H12FN3O5S
